US06211215B1
In substantially the same manner as in Reference Example 73, 7-phenyl-3-quinolylmethanol was reacted with thionyl chloride to obtain 3-chloromethyl-7-phenylquinoline. The yield was 96%. Recrystallization from ethyl acetate-hexane gave colorless prisms, 105-106° C.

reactant | 7-phenyl-3-quinolylmethanol | C1(=CC=CC=C1)C1=CC=C2C=C(C=NC2=C1)CO | C16H13NO
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 3-chloromethyl-7-phenylquinoline | yield was 96% | ClCC=1C=NC2=CC(=CC=C2C1)C1=CC=CC=C1 | C16H12ClN
